US07071175B1
Tetrabutylammonium fluoride (13.9 g, 44.1 mmol) was added to a solution of 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-4-methylpyridin (10.0 g, 24.3 mmol) in THF (100 mL). The reaction mixture was stirred for 3 h at room temperature. Concentration under reduced pressure followed by flash chromatography (hexane/EtOAc, 50:50) gave 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-4-methylpyridin (5.0 g, 67%).

reactant | Tetrabutylammonium fluoride | 44.1 mmol, 13.9 g | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-(tert-butyl-dimethyl-silanyloxymethyl)-4-methylpyridin | 24.3 mmol, 10.0 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C(=C1)C)C(O[SiH2]C(C)(C)C)(C)C | C23H40N2O5Si
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-[N,N-bis(tert-butoxycarbonyl)amino]-5-hydroxymethyl-4-methylpyridin | 5.0 g, 67% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=NC=C(C(=C1)C)CO | C17H26N2O5
